US08034812B2
Production of 4-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-3-(trifluoromethyl)benzamide
Using N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (80 mg, 0.25 mmol), 4-chloro-3-(trifluoromethyl)benzoic acid (57 mg, 0.25 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (50 mg, 0.26 mmol), 1-hydroxybenzotriazole (35 mg, 0.26 mmol) and N,N-dimethylformamide (4.0 mL) as starting materials and in the same manner as in Example 318, the title compound (83 mg, 63%) was obtained as a white powder.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.25 mmol, 80 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 4-chloro-3-(trifluoromethyl)benzoic acid | 0.25 mmol, 57 mg | ClC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4ClF3O2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.26 mmol, 50 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.26 mmol, 35 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | 4-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-3-(trifluoromethyl)benzamide | 83 mg, 63% | ClC1=C(C=C(C(=O)NC2=C(C=CC(=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C)C=C1)C(F)(F)F | C25H19ClF3N5O3
